US08431581B2
Preparation of 6-acetoxy-5-oxo-1-(2-oxo-2-piperidin-1-yl-ethyl)-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester
To a solution of compound 6-acetoxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester (PCT/AU2007/001980) (2.0 g, 7.96 mmol) in anhydrous acetonitrile (20 ml) was added compound 2-chloro-1-piperidin-1-yl-ethanone (2.0 g, 12.42 mmol), K2CO3 (1.7 g, 12.32 mmol), KI (133 mg, 0.8 mmol) successively. The mixture was heated at refluxed for 3 hours. After cooling to the room temperature, the mixture was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized from ethyl acetate to give titled compound (2.0 g, yield 66.7%).

reactant | 6-acetoxy-5-oxo-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 7.96 mmol, 2.0 g | COC(=O)C=1N=C2N(C(C1OC(C)=O)=O)C=CN2 | C10H9N3O5
reactant | 2-chloro-1-piperidin-1-yl-ethanone | 12.42 mmol, 2.0 g | ClCC(=O)N1CCCCC1 | C7H12ClNO
reactant | K2CO3 | 12.32 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 6-acetoxy-5-oxo-1-(2-oxo-2-piperidin-1-yl-ethyl)-1,5-dihydro-imidazo[1,2-a]pyrimidine-7-carboxylic acid methyl ester | 2.0 g, yield 66.7% | COC(=O)C=1N=C2N(C(C1OC(C)=O)=O)C=CN2CC(N2CCCCC2)=O | C17H20N4O6
